US04565882
5-(2-allyl-4-carbomethoxyphenoxy)-1-bromopentane
Using the procedure of Example 1, 5.62 g (29.2 mmole) of methyl 3-allyl-4-hydroxybenzoate and 13.8 g (60 mmole) of 1,5-dibromopentane gave 6.9 g (69%) of the title compound as an oil. Calc: C, 56.32; H, 6.20; Found; C, 55.91; H, 6.20.

reactant | methyl 3-allyl-4-hydroxybenzoate | 29.2 mmole, 5.62 g | C(C=C)C=1C=C(C(=O)OC)C=CC1O | C11H12O3
reactant | 1,5-dibromopentane | 60 mmole, 13.8 g | BrCCCCCBr | C5H10Br2
product | 5-(2-allyl-4-carbomethoxyphenoxy)-1-bromopentane | 6.9 g, 69% | C(C=C)C1=C(OCCCCCBr)C=CC(=C1)C(=O)OC | C16H21BrO3
